US05773505
19.0 g of hydroxyethyl methacrylate
2 h after the end of the addition, 1 g of tert-butyl peroctoate is fed in. The total polymerization time is 8 h. After the end of polymerization, the mixture is diluted with 590.0 g of dibutyl phthalate. An almost clear, viscous solution is obtained.

reactant | tert-butyl peroctoate | 1 g | CCCCCCCC(=O)OOC(C)(C)C | C12H24O3
reactant | dibutyl phthalate | 590.0 g | C(C=1C(C(=O)OCCCC)=CC=CC1)(=O)OCCCC | C16H22O4
product | hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
